US06034121
Pentanoyl chloride (12.7 g) was added dropwise to 3-bromophenol (9.0 g) in pyridine (50 ml), and the reaction mixture was stirred at room temperature for 1 hour. Work-up as described in Example 12 gave 3-bromophenyl pentanoate.

reactant | Pentanoyl chloride | 12.7 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | 3-bromophenol | 9.0 g | BrC=1C=C(C=CC1)O | C6H5BrO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-bromophenyl pentanoate | C(CCCC)(=O)OC1=CC(=CC=C1)Br | C11H13BrO2
